US06310070B1
A reaction and post-treatment were carried out following the conditions of Example 71 using 3 g (14 mmol) of 4-benzyloxybenzyl alcohol, 80 ml of chlorotrimethylsilane, 1.09 ml of dimethylsulfoxide, to obtain 4-benzyloxybenzyl chloride.

reactant | 4-benzyloxybenzyl alcohol | 14 mmol, 3 g | C(C1=CC=CC=C1)OC1=CC=C(CO)C=C1 | C14H14O2
reactant | chlorotrimethylsilane | 80 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dimethylsulfoxide | 1.09 ml | CS(=O)C | C2H6OS
product | 4-benzyloxybenzyl chloride | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
